US05021458
A mixture of 17.8 g of 1-iodo-naphthalene, 4.4 g of paraformaldehyde, 10.4 ml of acetic acid, 14.6 ml of concentrated hydrochloric acid and 6.6 ml of phosphoric acid was stirred at 80 to 85° C. and thereto another 20 ml of concentrated hydrochloric acid was added with stirring 8 times at intervals of 1 hour. The reaction mixture was poured into water and was extracted with benzene. After distilling away benzene, 18.5 g of 4-iodo-1-chloromethylnaphthalene was obtained.

reactant | 1-iodo-naphthalene | 17.8 g | IC1=CC=CC2=CC=CC=C12 | C10H7I
reactant | paraformaldehyde | 4.4 g | C=O | CH2O
reactant | hydrochloric acid | 14.6 ml | Cl | ClH
reactant | phosphoric acid | 6.6 ml | P(O)(O)(O)=O | H3O4P
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | acetic acid | 10.4 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-iodo-1-chloromethylnaphthalene | 18.5 g | IC1=CC=C(C2=CC=CC=C12)CCl | C11H8ClI
